US06500817B1
2-{[2-(Dimethylamino)ethyl][(4-ethoxyanilino)carbonyl]amino}-N,4-dimethyl-1,3-thiazole-5-sulphonamide
1.0 g (3.59 mmol) of 2-{[2-dimethylaminoethyl]amino}-N,4-dimethyl-1,3-thiazole-5-sulphonamide and 586 mg (3.59 mmol) of 4-ethoxyphenyl isocyanate are dissolved in 30 ml of dioxane and stirred at room temperature for 12 h. The mixture is then concentrated in vacuo, and the residue is recrystallized from 2-propanol.

reactant | 2-{[2-dimethylaminoethyl]amino}-N,4-dimethyl-1,3-thiazole-5-sulphonamide | 3.59 mmol, 1.0 g | CN(CCNC=1SC(=C(N1)C)S(=O)(=O)NC)C | C9H18N4O2S2
reactant | 4-ethoxyphenyl isocyanate | 3.59 mmol, 586 mg | C(C)OC1=CC=C(C=C1)N=C=O | C9H9NO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-{[2-(Dimethylamino)ethyl][(4-ethoxyanilino)carbonyl]amino}-N,4-dimethyl-1,3-thiazole-5-sulphonamide | CN(CCN(C=1SC(=C(N1)C)S(=O)(=O)NC)C(=O)NC1=CC=C(C=C1)OCC)C | C18H27N5O4S2
